US08877742B2
4-bromo-2-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine (D20) (6 g, 17.08 mmol) in THF (100 ml) was cooled to −78° C. LDA (2M in THF) (21.35 mL, 42.7 mmol) was added at −78° C. and stirred at this temperature for ca. 1 hour. Iodomethane (2.136 ml, 34.2 mmol) was then added. After stirred at −78° C. for further ca. 30 min, the mixture was quenched by addition of saturated NH4Cl solution (150 mL), extracted with ethyl acetate (100 mL×3). The combined organics were dried over Na2SO4, filtered and concentrated. The residue was purified on normal phase chromatography eluting with a gradient of 0-30% ethyl acetate in cyclohexane to give the title compound containing impurities (5.4 g). LCMS (A): m/z (M+H)+ 365/367, C15H13BrN2O2S requires 364/366 (acidic).

reactant | 4-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 17.08 mmol, 6 g | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C14H11BrN2O2S
reactant | LDA | 42.7 mmol, 2M, 21.35 mL | [Li+].CC(C)[N-]C(C)C
reactant | Iodomethane | 34.2 mmol, 2.136 ml | IC | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-bromo-2-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC=C1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C15H13BrN2O2S
